US05665718
2.38 g (7.85 mmol) of (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide were suspended in 15 ml of dioxan and 1.4 ml of pyridine and treated dropwise at a temperature of about 10° with 1.2 ml (8.25 mmol) of trifluoroacetic anhydride. The mixture was stirred at room temperature for 45 min. and a further 0.26 ml of pyridine and 0.11 ml of trifluoroacetic anhydride were added. The reaction mixture was stirred for 30 min. Thereupon, the solvent was removed in a vacuum and the residue was triturated with 30 ml of water. The crude material was chromatographed on 50 g of silica gel (methylene chloride/acetone 9:1). The product was recrystallized from acetonitrile. There were obtained 1.75 g (80%) of (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile of m.p. 258°-261°.

reactant | (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamide | 7.85 mmol, 2.38 g | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C(=O)N)CC3)=O)C1 | C14H11ClN4O2
reactant | pyridine | 1.4 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 8.25 mmol, 1.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 0.26 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.11 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | (S)-7-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carbonitrile | 1.75 g, 80% | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C#N)CC3)=O)C1 | C14H9ClN4O
